US04880853
2,2-bis(4-hydroxyphenyl)propane;
hydroquinone; resorcinol; 2,2-bis-(4-hydroxyphenyl)pentane; 2,4'-dihydroxydiphenylmethane; bis-(2-hydroxyphenyl)methane; bis-(4-hydroxyphenyl)methane; bis-(4-hydroxy-5-nitrophenyl)methane; 1,1-bis(4-hydroxyphenyl)ethane; 3,3-bis(4-hydroxyphenyl)pentane; 2,2-dihydroxydiphenyl; 2,6-dihydroxynaphthalene; bis-(4-hydroxydiphenyl)sulfone; bis-(3,5-diethyl-4-hydroxyphenyl)sulfone; 2,2-bis-(3,5-dimethyl-4-hydroxyphenyl)propane; 2,4'-dihydroxydiphenyl sulfone; 5'-chloro-2,4'-dihydroxydiphenyl sulfone; bis-(4-hydroxyphenyl)diphenyl sulfone; 4,4'-dihydroxydiphenyl ether; 4,4'-dihydroxy-3,3'-dichlorodiphenyl ether; 4,4'-dihydroxy-2,5-dihydroxydiphenyl ether; and the like.

reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2,2-bis-(4-hydroxyphenyl)pentane | OC1=CC=C(C=C1)C(C)(CCC)C1=CC=C(C=C1)O | C17H20O2
reactant | 2,4'-dihydroxydiphenylmethane | C1=CC=C(C(=C1)CC2=CC=C(C=C2)O)O | C13H12O2
reactant | bis-(2-hydroxyphenyl)methane | OC1=C(C=CC=C1)CC1=C(C=CC=C1)O | C13H12O2
reactant | bis-(4-hydroxyphenyl)methane | OC1=CC=C(C=C1)CC1=CC=C(C=C1)O | C13H12O2
reactant | bis-(4-hydroxy-5-nitrophenyl)methane | OC1=CC=C(C=C1[N+](=O)[O-])CC1=CC=C(C(=C1)[N+](=O)[O-])O | C13H10N2O6
reactant | 1,1-bis(4-hydroxyphenyl)ethane | OC1=CC=C(C=C1)C(C)C1=CC=C(C=C1)O | C14H14O2
reactant | 3,3-bis(4-hydroxyphenyl)pentane | OC1=CC=C(C=C1)C(CC)(CC)C1=CC=C(C=C1)O | C17H20O2
reactant | 2,6-dihydroxynaphthalene | OC1=CC2=CC=C(C=C2C=C1)O | C10H8O2
reactant | bis-(3,5-diethyl-4-hydroxyphenyl)sulfone | C(C)C=1C=C(C=C(C1O)CC)S(=O)(=O)C1=CC(=C(C(=C1)CC)O)CC | C20H26O4S
reactant | 2,2-bis-(3,5-dimethyl-4-hydroxyphenyl)propane | CC=1C=C(C=C(C1O)C)C(C)(C)C1=CC(=C(C(=C1)C)O)C | C19H24O2
reactant | 2,4'-dihydroxydiphenyl sulfone | C1=CC=C(C(=C1)O)S(=O)(=O)C2=CC=C(C=C2)O | C12H10O4S
reactant | 4,4'-dihydroxydiphenyl ether | C1=CC(=CC=C1O)OC2=CC=C(C=C2)O | C12H10O3
product | 2,2-bis(4-hydroxyphenyl)propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
